US04863920
8.93 g (25 mmol) of 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at room temperature for 24 hours with 3.03 g (27 mmol) of 3-ethyl-1-pentyn-3-ol, 100 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 20 mg of copper(I) iodide in 60 ml of diethylamine. A further 0.87 g (7.7 mmol) of 3-ethyl-1-pentyn-3-ol as well as 50 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 50 mg of copper(I) iodide were added thereto and the mixture was stirred at the boiling temperature for 0.5 hour. The reaction mixture was subsequently evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. After decolorizing the crude product with active charcoal and crystallization from ethyl acetate there was obtained 8-fluoro-3-(3-ethyl-3-hydroxy-1-pentynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 135° -136°.

reactant | 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 25 mmol, 8.93 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3I)C)=O)C1 | C12H9FIN3O
reactant | 3-ethyl-1-pentyn-3-ol | 27 mmol, 3.03 g | C(C)C(C#C)(CC)O | C7H12O
reactant | 3-ethyl-1-pentyn-3-ol | 7.7 mmol, 0.87 g | C(C)C(C#C)(CC)O | C7H12O
solvent | diethylamine | 60 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 20 mg | [Cu]I
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 50 mg | [Cu]I
product | 8-fluoro-3-(3-ethyl-3-hydroxy-1-pentynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3C#CC(CC)(O)CC)C)=O)C1 | C19H20FN3O2
